US06987118B2
(6-Hydroxy-3,4-dihydro-1H-isoquinolin-2-yl)-[4-methyl-2-(4-trifluoromethyl-phenyl)-thiazol-5-yl]-methanone
4-Methyl-2-[4-(trifluoromethyl)phenyl]-5-thiazolecarboxylic acid (450 mg, 1.6 mmol), 1-hydroxybenzotriazole (260 mg, 1.9 mmol) and 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride (370 mg, 1.9 mmol) were added to 6-hydroxy-1,2,3,4-tetrahydroisoquinoline hydrobromide (300 mg, 1.3 mmol) in 2 ml of triethylamine and 6 ml of methylene chloride. The reaction was stirred under N2 at RT for 18 hrs. The reaction was diluted with 100 ml CH2Cl2 and made acidic with 10% citric acid. The organic layer was separated and the aqueous phase was extracted with 2×100 ml CH2Cl2. The organic phases were combined, washed with H2O, brine, dried over Na2SO4, filtered and concentrated. The residue was purified by flash column chromatography (40% EtOAc/Hexanes) to yield 229 mg (42%) of the title product of this preparation as a white solid.

reactant | 4-Methyl-2-[4-(trifluoromethyl)phenyl]-5-thiazolecarboxylic acid | 1.6 mmol, 450 mg | CC=1N=C(SC1C(=O)O)C1=CC=C(C=C1)C(F)(F)F | C12H8F3NO2S
reactant | 1-hydroxybenzotriazole | 1.9 mmol, 260 mg | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride | 1.9 mmol, 370 mg | Cl.CN(CCCN=C=NCC)C
reactant | 6-hydroxy-1,2,3,4-tetrahydroisoquinoline hydrobromide | 1.3 mmol, 300 mg | Br.OC=1C=C2CCNCC2=CC1
reactant | citric acid | C(CC(O)(C(=O)O)CC(=O)O)(=O)O | C6H8O7
solvent | triethylamine | 2 ml | C(C)N(CC)CC | C6H15N
solvent | methylene chloride | 6 ml | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 100 ml | C(Cl)Cl | CH2Cl2
product | (6-Hydroxy-3,4-dihydro-1H-isoquinolin-2-yl)-[4-methyl-2-(4-trifluoromethyl-phenyl)-thiazol-5-yl]-methanone | 229 mg, 42% | OC=1C=C2CCN(CC2=CC1)C(=O)C1=C(N=C(S1)C1=CC=C(C=C1)C(F)(F)F)C | C21H17F3N2O2S
